US04459414
4,5-Bis(p-toluylthio)-3,6-dichlorophthalic acid N-2-hydroxyethylimide
20 g (60.8 millimols) of tetrachlorophthalic acid N-2-hydroxyethylimide, 15.86 g (127.67 millimols) of p-thiocresol, 34.03 g (246.22 millimols) of potassium carbonate and 200 ml of tetrahydrofuran are stirred at 25° C. for 2.5 days. The mixture is acidified and extracted with methylene chloride. After recrystallisation from toluene, 26.42 g (86% of theory) of the title compound are obtained; melting point 211°-2° C.

reactant | tetrachlorophthalic acid N-2-hydroxyethylimide | 60.8 millimols, 20 g | OCCN=C(C=1C(C(=O)O)=C(C(=C(C1Cl)Cl)Cl)Cl)O | C10H7Cl4NO4
reactant | p-thiocresol | 127.67 millimols, 15.86 g | CC1=CC=C(C=C1)S | C7H8S
reactant | potassium carbonate | 246.22 millimols, 34.03 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4,5-Bis(p-toluylthio)-3,6-dichlorophthalic acid N-2-hydroxyethylimide | OCCN=C(C=1C(C(=O)O)=C(C(=C(C1Cl)SC1=CC=C(C=C1)C)SC1=CC=C(C=C1)C)Cl)O | C24H21Cl2NO4S2
